US08168633B2
2-(4-Azetidin-1-ylpiperidin-1-ylmethyl)-5-chloro-7-morpholin-4-ylthiazolo[5,4-d]pyrimidine
To a solution of 5-chloro-7-morpholin-4-ylthiazolo[5,4-d]pyrimidine-2-carbaldehyde (308 mg, 1.08 mmol) in DCE (8 mL) was added 4-azetidin-1-ylpiperidine (166 mg, 1.19 mmol). The resulting mixture was stirred at RT for 10 min then sodium triacetoxyborohydride (297 mg, 1.40 mmol) was added and stirring was continued for 18 h. The reaction mixture was loaded onto an Isolute® SCX-2 cartridge, washed with MeOH then eluted with 2 M NH3 in MeOH and concentrated in vacuo to give the title compound as an off-white solid (263 mg, 60%).

reactant | 5-chloro-7-morpholin-4-ylthiazolo[5,4-d]pyrimidine-2-carbaldehyde | 1.08 mmol, 308 mg | ClC=1N=C(C2=C(N1)SC(=N2)C=O)N2CCOCC2 | C10H9ClN4O2S
reactant | 4-azetidin-1-ylpiperidine | 1.19 mmol, 166 mg | N1(CCC1)C1CCNCC1 | C8H16N2
reactant | sodium triacetoxyborohydride | 1.40 mmol, 297 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 8 mL | ClCCCl | C2H4Cl2
product | 2-(4-Azetidin-1-ylpiperidin-1-ylmethyl)-5-chloro-7-morpholin-4-ylthiazolo[5,4-d]pyrimidine | 263 mg, 60% | N1(CCC1)C1CCN(CC1)CC=1SC=2N=C(N=C(C2N1)N1CCOCC1)Cl | C18H25ClN6OS
